Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
amoxicillin
 
Attending: ___
 
Chief Complaint:
LUE weakness
 
Major Surgical or Invasive Procedure:
___ Removal of BB from L index finger

 
History of Present Illness:
___ yo M hx heroine use presents with neck pain and left arm 
paralysis since waking from his overdose.  Pt overdosed ___ at 
11 AM, patient was found seated in a parked car, blue, and not 
breathing. CPR was done and the patient was given Narcan x4 in 
the ambulance and woke up. Patient reported upon waking he noted 
that his LUE was unable to move but thought it was because he 
was strapped in, but then noticed he could not move it at the 
hospital. Patient did not report this but then later was 
arrested on a warrant when he reported this to the police who 
took him to an OSH then transferred to ___. 
 
He reports months of central neck pain at the base of his neck 
in
the back which radiates to his bilateral arms and occasionally 
has
"numbness to his fingers". MRI showed a C6-7 disc protrusion 
into the cord and he was transferred to ___ for 
neurosurgical evaluation. On ROS the patient denies bowel or 
bladder incontinence. The patient has provided multiple 
variations regarding the history of his neck pain. He denies any 
trauma. He denies any IV drug use but does report having two 
teeth extracted about ___ wks ago, was on Clindamycin while in 
rehab. 

 
Past Medical History:
Substance abuse
Tachycardia
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
On admission:
PHYSICAL EXAM:
O: T: 98.4  HR: 82  BP: 151/94  RR: 18  Sat: 97% RA 
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3-2 mm bilaterally EOMs intact 
Neck: Supple. Patient reports discomfort with movement. 
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T     IP    Q  H     AT    ___    G
R     5    5     5      5    5  5      5     5     5
L     2    1     2      5    5  5      5     5     5 

Sensation: The patient reports decreased sensation to his LUE at
the level of his deltoid and below the wrist. He has slight
movement in his left middle finger, and minimal to no movement 
to
his left ring and pinky finger. 

No Clonus or hoffmans bilaterally

==============
On discharge: 
==============
Alert and oriented x3. PERRL. EOMs intact. Face symmetrical. 
Tongue midline. 

Motor:
      Trap  D    B    T  Grip FI   IP   Q  H     AT    ___    G
R     5     5    5    5    ___    5  5      5     5     5
L     5     0    2    2    ___    5  5      5     5     5 

Decreased sensation to his LUE at the level of his deltoid and 
below the wrist. No Clonus or hoffmans bilaterally
L index finger wrapped in gauze s/p BB removal 

 
Pertinent Results:
___ 04:40AM BLOOD WBC-7.9 RBC-4.91 Hgb-13.7 Hct-41.4 MCV-84 
MCH-27.9 MCHC-33.1 RDW-13.2 RDWSD-40.6 Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD ___ PTT-30.4 ___
___ 04:40AM BLOOD Glucose-110* UreaN-9 Creat-0.7 Na-136 
K-4.2 Cl-97 HCO3-26 AnGap-17
___ 03:05AM BLOOD CRP-5.6*

Please refer to OMR for pertinent imaging results
 
Brief Hospital Course:
Mr. ___ is a ___ old male admitted with LUE weakness after 
waking from a overdose of heroin. He was admitted to the 
neurosurgery service while under arrest in police custody.

#LUE weakness: MRI without contrast showed soft tissue swelling 
and prevertebral fluid collection concerning for possible 
abscess or infection and disc protrusion is seen at C6-C7 
resulting in moderate spinal canal narrowing. Patient was 
advised to wear a cervical collar on admission. He was fitted 
appropriately however refused to wear the c-collar despite 
education surrounding the importance. Patient was started on 
robaxin and tramadol for pain with good effect. A MRI Cspine was 
obtained showing the prevertebral fluid collection appeared to 
be post-traumatic in nature and not typical for infection. There 
was no evidence of discitis or osteomyelitis seen. There was a 
left sided disc herniation at C6-C7 which does not explain for 
the weakness throughout much of his left arm. This left arm 
weakness is more likely due to a brachial plexopathy and can be 
managed outpatient with follow-up in 1 month and EMG if his 
symptoms do not improve. He was evaluated by OT and fitted for a 
pre-fabricated L wrist splint for his wrist drop. An MRI brain 
was also negative for infection and showed and incidental 
finding of a small retro cerebellar arachnoid ___ cisterna 
magna. 

#Retained BB:
A retained BB was removed from the patient's left index finger 
by the orthopedic hand team at the bedside so the patient could 
undergo his MRI. Dissolvable sutures and a gauze dressing were 
in place upon discharge. The dressing ___ be removed on ___. 

#Scaphoid:
A fracture through proximal pole of the scaphoid was 
incidentally found on xray for evaluation of the BB in the 
patients L finger. Ortho hand evaluated the patient and the 
imaging and feel that the fracture is chronic. The patient does 
not need to be in a cast or splint for the fracture and was 
instructed to follow-up in the ___ clinic in 2 weeks for 
further evaluation. 

#Substance abuse:
Social work was consulted to provide any additional support.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
Do not exceed 4GM acetaminophen in 24 hours.   
2.  Methocarbamol 500 mg PO QID: PRN  Muscle spasm  
RX *methocarbamol 500 mg 1 tablet(s) by mouth QID PRN Disp #*15 
Tablet Refills:*0 
3.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
Do not drive while taking this medication. Hold for sedation.  
RX *tramadol 50 mg 1 tablet(s) by mouth q6H PRN Disp #*20 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LUE weakness
Scaphoid fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Activity
•       We recommend you wear your hard cervical collar at all 
times.
•       We recommend you wear your prefabricated left wrist 
splint for your wrist drop. You ___ remove this for showering.
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•You ___ take Ibuprofen/ Motrin for pain.
•You ___ use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

BB Removal Instructions: 
•       You ___ remove the gauze dressing form your finger on 
___. 
•       Your incision was closed with absorbable sutures. There 
is no need for suture removal
•       Monitor your wound for signs of infection such as 
redness, swelling, drainage, or opening of the wound
•       Keep you wound dry. You ___ get your incision wet after 
the dressing is removed. Avoid creams and lotions to the 
incision. 

 
Followup Instructions:
___